US08084614B2
A mixture of 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-3-methyl-phenoxy}-butyric acid tert-butyl ester (6.1 g, 12.3 mmol), bis(pinacolato)diboron (4.7 g, 18.5 mmol), Pd(dppf)2Cl2 (0.73 g, 1.0 mmol) and potassium acetate (3.6 g, 36.9 mmol) in dioxane (80 mL) was degassed by bubbling N2 for 5 minutes and then heated under sealed condition to 95° C. for 14 hrs. Upon cooling to room temperature, the mixture was passed through a pad of Celite. The Celite was further washed with ethyl acetate. The combined solutions were washed with water and brine, and were dried over MgSO4. Concentration and purification by silica gel column chromatography eluting with ethyl acetate/hexane(1/4) yielded 4-(2-{[4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-methyl-amino}-3-methyl-phenoxy)-butyric acid tert-butyl ester (6.5 g) as a light yellow oil.

reactant | 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-3-methyl-phenoxy}-butyric acid tert-butyl ester | 12.3 mmol, 6.1 g | C(C)(C)(C)OC(CCCOC1=C(C(=CC=C1)C)N(C)C(C1=CC(=C(C=C1)Cl)Br)=O)=O | C23H27BrClNO4
reactant | bis(pinacolato)diboron | 18.5 mmol, 4.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 36.9 mmol, 3.6 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 1.0 mmol, 0.73 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-{[4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-methyl-amino}-3-methyl-phenoxy)-butyric acid tert-butyl ester | 6.5 g | C(C)(C)(C)OC(CCCOC1=C(C(=CC=C1)C)N(C)C(C1=CC(=C(C=C1)Cl)B1OC(C(O1)(C)C)(C)C)=O)=O | C29H39BClNO6
